US07632857B2
Procedure H′: 750 mg of pyridine-3-boronic acid (6.14 mmol), 1.34 g of methyl 4-bromobenzoate (6.22 mmol) are put in the reaction vessel with 25 ml of DME: water: EtOH=7:3:2.). 6.25 ml of aqueous 2M Na2CO3 is added to the mixture and 250 mg of tetrakis(triphenylphosphine is added. The vessel is sealed and heated at 110° C. for 40 min in Microwave machine (MARS). After cooling, water and CH2Cl2 are added. The CH2Cl2 layer is separated, washed by brine, dried over Na2SO4 and evaporated. The crude product is applied to silica-gel column chromatography (Hexane:AcOEt=3:1) to give 4-pyridin-3-yl-benzoic methyl ester. Yield 50%: mass spectrum (m/e): 214(M+1); 1H-NMR(CDCl3): 8.92(m, 1H), 8.68(m, 1H), 8.18(d, 2H, J=7.6 Hz), 7.95(m, 1H), 7.69(d, 2H, J=7.6 Hz), 7.43(m, 1H), 3.99(s, 3H).

reactant | pyridine-3-boronic acid | 6.14 mmol, 750 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | methyl 4-bromobenzoate | 6.22 mmol, 1.34 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tetrakis | 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | EtOH | CCO | C2H6O
solvent | DME | 25 ml | COCCOC | C4H10O2
product | 4-pyridin-3-yl-benzoic methyl ester | Yield 50% | COC(C1=CC=C(C=C1)C=1C=NC=CC1)=O | C13H11NO2
